US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide
To a solution of 3-methylpyridine-2-carboxylic acid (53.5 mg, 0.390 mmol) in tetrahydrofuran (3 mL) were added oxalyl chloride (68.0 μL, 0.780 mmol) and N,N-dimethylformamide (1 drop), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in N,N-dimethylacetamide (3 mL). N-[6-(3-Aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (60.0 mg, 0.195 mmol) was added with stirring under ice-cooling, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (NH silica gel, ethyl acetate) and recrystallized from ethyl acetate to give the title compound (58.0 mg, 70%) as a white solid.

reactant | 3-methylpyridine-2-carboxylic acid | 0.390 mmol, 53.5 mg | CC=1C(=NC=CC1)C(=O)O | C7H7NO2
reactant | oxalyl chloride | 0.780 mmol, 68.0 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-Aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.195 mmol, 60.0 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide | 58.0 mg, 70% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C24H21N5O3
